US08124636B2
To a solution of (3-chloro-propylamino)-(4-fluoro-phenyl)-acetic acid methyl ester (14.34 g) in DMF (40 mL) was added BOC2O (11.44 g) followed by triethylamine (15.9 g) and the resultant mixture was stirred overnight at 60° C. A further 0.25 equivalents of BOC2O was added and the reaction mixture was stirred a further 18 hours. The reaction mixture was diluted with EtOAc (200 mL) and water (150 mL), the phases were separated and the organic phase was washed with 0.5 N HCl solution, water, brine and dried over sodium sulfate. Filtration of the drying agent and evaporation of the volatiles in vacuo afforded crude [tert-butoxycarbonyl-(3-chloro-propyl)-amino]-(4-fluoro-phenyl)-acetic acid methyl ester (10.91 g, MS (ES+): 360.1 (MH+)) as a brown oil which was used in the subsequent reaction without further purification.

reactant | (3-chloro-propylamino)-(4-fluoro-phenyl)-acetic acid methyl ester | 14.34 g | COC(C(C1=CC=C(C=C1)F)NCCCCl)=O | C12H15ClFNO2
reactant | BOC2O | 11.44 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 15.9 g | C(C)N(CC)CC | C6H15N
reactant | BOC2O | 0.25 equivalents | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | water | 150 mL | O | H2O
product | [tert-butoxycarbonyl-(3-chloro-propyl)-amino]-(4-fluoro-phenyl)-acetic acid methyl ester | 10.91 g | COC(C(C1=CC=C(C=C1)F)N(CCCCl)C(=O)OC(C)(C)C)=O | C17H23ClFNO4
